US04581452
A mixture of α-trifluoromethylacrylic acid (350 mg; 2.5 mmoles), benzylurea (389 mg; 2.6 mmoles) and acetic anhydride (2 ml) was heated with stirring at 100° C. for 1 hour. The solvent was evaporated under reduced pressure, and the residue was recrystallized from chloroform/hexane to give 500 mg (yield: 72%) of 3-benzyl-5-trifluoromethyldihydrouracil. The physical and spectral properties of this product completely agreed with those of the product obtained in Example 6.

reactant | α-trifluoromethylacrylic acid | 2.5 mmoles, 350 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | benzylurea | 2.6 mmoles, 389 mg | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-benzyl-5-trifluoromethyldihydrouracil | 500 mg, yield: 72% | C(C1=CC=CC=C1)N1C(NCC(C1=O)C(F)(F)F)=O | C12H11F3N2O2
